2113-07-25 17:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2113-7-25**] 01:08 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-25**] 05:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 89 (87 - 96) bpm
   BP: 145/65(93) {118/58(79) - 149/71(97)} mmHg
   RR: 25 (20 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 28 Inch
             Total In:
             942 mL
   PO:
             TF:
   IVF:
   792 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    900 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 10 cmH2O
   RR (Spontaneous): 189
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: 7.40/64/122/38/12
   PaO2 / FiO2: 244
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   360 K/uL
   10.3 g/dL
   133 mg/dL
   0.4 mg/dL
   38 mEq/L
   3.9 mEq/L
   11 mg/dL
   100 mEq/L
   142 mEq/L
   31.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2113-7-22**]  04:37 AM
                             [**2113-7-22**]  04:34 PM
                             [**2113-7-23**]  04:27 AM
                             [**2113-7-24**]  05:19 AM
                             [**2113-7-25**]  06:15 AM
                             [**2113-7-25**]  12:19 PM
                             [**2113-7-25**]  02:48 PM
                             [**2113-7-25**]  04:37 PM
   WBC
   11.7
   12.6
   12.2
   12.0
   9.1
   Hct
   31.1
   31.1
   34.2
   31.8
   31.4
   Plt
   [**Telephone/Fax (3) 3945**]62
   360
   Cr
   0.4
   0.5
   0.4
   0.4
   TCO2
   41
   41
   41
   Glucose
   92
   124
   112
   133
   Other labs: PT / PTT / INR:14.0/38.1/1.2, ALT / AST:32/45, Alk Phos / T
   Bili:186/0.7, Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.7 %,
   Mono:2.1 %, Eos:0.3 %, LDH:578 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 HYPOXEMIA:
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANEMIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-7-25**] 02:47 PM
   20 Gauge - [**2113-7-25**] 02:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-07-26 06:45:00 Physician Resident Progress Note
Chief Complaint: Pneumonia
   24 Hour Events:
 ULTRASOUND - At [**2113-7-25**] 01:07 PM
   bilateral lower ext - negative for DVT
 NON-INVASIVE VENTILATION - START [**2113-7-25**] 01:07 PM
   starting non invasive vent [**1-21**] worsening abg.
 NON-INVASIVE VENTILATION - STOP [**2113-7-25**] 02:42 PM
   starting non invasive vent [**1-21**] worsening abg.
 ARTERIAL LINE - START [**2113-7-25**] 02:47 PM
   - Placed on right radial
   Anxiety episode at night, given 0.5mg Ativan IV
   Nausea this am, gave Zofran
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2113-7-25**] 01:08 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2113-7-25**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-26**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 87 (83 - 108) bpm
   BP: 132/62(86) {117/58(79) - 169/138(141)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,318 mL
                                                                    692 mL
   PO:
             TF:
   IVF:
                                                                  1,168 mL
                                                                    692 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    440 mL
   Urine:
                                                                  1,960 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -642 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 10 cmH2O
   RR (Spontaneous): 189
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: 7.40/62/121/36/11
   PaO2 / FiO2: 242
   Physical Examination
   General: Alert, oriented, responding appropiately
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left DP
   pulse: 2+)
   Skin:  Not assessed
   Cardiovascular: Regular rate, no murmurs, rubs or gallops
   Lungs: Diffuse rhonchi and expiratory wheezes at both bases and
   anterior lung fields
   Abdomen: Soft, non tender non distended, normoactive bowel sounds
   Labs / Radiology
   366 K/uL
   9.0 g/dL
   94 mg/dL
   0.2 mg/dL
   36 mEq/L
   3.5 mEq/L
   14 mg/dL
   99 mEq/L
   142 mEq/L
   26.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2113-7-23**]  04:27 AM
                             [**2113-7-24**]  05:19 AM
                             [**2113-7-25**]  06:15 AM
                             [**2113-7-25**]  12:19 PM
                             [**2113-7-25**]  02:48 PM
                             [**2113-7-25**]  04:37 PM
                             [**2113-7-25**]  08:25 PM
                             [**2113-7-26**]  02:31 AM
                             [**2113-7-26**]  02:49 AM
                             [**2113-7-26**]  03:42 AM
   WBC
   12.2
   12.0
   9.1
   6.9
   Hct
   34.2
   31.8
   31.4
   26.7
   Plt
   [**Telephone/Fax (3) 3969**]66
   Cr
   0.5
   0.4
   0.4
   0.2
   TCO2
   41
   41
   41
   41
   40
   40
   Glucose
   124
   112
   133
   94
   Other labs: PT / PTT / INR:14.2/38.1/1.2, ALT / AST:32/45, Alk Phos / T
   Bili:186/0.7, Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.7 %,
   Mono:2.1 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, LDH:578 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   CXR: New right lower lobe infiltrate, diffuse congestion at both bases.
   Assessment and Plan
   Ms. [**Known lastname 3972**] is a 49yo female with no significant PMH who presents with
   increasing oxygen requirement and cxray findings consistent with
   multifocal PNA.
   .
   #) Legionella Multilobar pneumonia: Chest X-ray appears worse with
   diffuse bilateral infiltrated at the bases, respiratory status
   continues to be very tenuous.
   -- Continue Levaquin, Azithromycin IV for now given lack of clinical
   response, although double coverage may not be necessary later
   -- Appreciate ID team following
   -- F/U pending serologies: HIV, EBV, CMV, Leptospira, RMSF, Parvovirus,
   Lyme, Erlichia
   -- Atrovent nebs / Albuterol nebs schedules
   -- Low threshold for intubation, appears patient is progressing to
   ARDS.
   -- If Decreased mental status, hypercarbia > 70 refractory to bipap
   trial or overall deterioration, will need intubation.
   -- Hi flow O2 supplementation
   .
   #. Mixed Acid Base Disorder: Ongoing respiratory acidosis with
   metabolic alkalosis.
   A) Metabolic Alkalosis:
   -- Control nausea to avoid emesis and acid loss
   -- Scheduled Zofran, NPO for now
   -- Replete Potassium with KCl as pt has metabolic hypochloremic
   acidosis
   -- NS for maintenance fluids to replete chloride and reverse component
   of contraction alkalosis
   B) Respiratory Acidosis:
   -- Hi Flow oxygen to reduce tachypnea
   .
   #. Anemia: Hct with rapid change, suspect spurrious result
   -- Repeat today
   -- Transfuse for Hct < 25
   .
   #)Arthralgias/rash: Patient initially had arthralgias and rash, all of
   which have resolved at this time. She may initially have had a viral
   illness and now have a superimposed bacterial infection given her
   pneumonia.
   -- Monitor daily for symptoms
   .
   #)Transaminitis: Likely secondary to Legionella
   -- Continue to trend daily LFTs
   -- f/u EBV, CMV,
   -- HIV negative
   #)Depression: Continue Celexa 20mg PO daily.
   #)FEN: NPO for now
   #)Prophylaxis: Enoxaparin prophylaxis, PPI not needed
   #)Access: PIV, a line
   #)Dispo: Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-7-25**] 02:47 PM
   20 Gauge - [**2113-7-25**] 02:47 PM
   22 Gauge - [**2113-7-25**] 05:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-07-27 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Given a total of 40mEQ of KCL to help metabolic alkalosis
   -Started on NS maintenance fluids
   -Placed on standing albuterol
   -ABG's initially improved with pCO2 to 50s, now at 66
   -Vomiting all night, responded well to IV phenergan, zofran had little
   effect
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2113-7-26**] 12:24 PM
   Levofloxacin - [**2113-7-26**] 01:05 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2113-7-26**] 04:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-27**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 81 (76 - 102) bpm
   BP: 149/72(99) {135/62(88) - 153/74(101)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,700 mL
                                                                    475 mL
   PO:
             TF:
   IVF:
                                                                  2,700 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                  1,010 mL
   Urine:
                                                                  2,230 mL
                                                                    980 mL
   NG:
                                                                     60 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    410 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.39/66/113/38/12
   PaO2 / FiO2: 188
   Physical Examination
   Gen: Somnolent, arousable
   CV: Regular rate, no murmurs rubs or gallops
   Lungs: Diffuse rhonchi, bronchial breath sounds bilaterally at bases.
   Abd: Soft, non tender, non distended
   Skin: Warm, dry, intact.
   Labs / Radiology
   464 K/uL
   9.3 g/dL
   121 mg/dL
   0.3 mg/dL
   38 mEq/L
   4.2 mEq/L
   8 mg/dL
   95 mEq/L
   139 mEq/L
   28.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2113-7-26**]  02:31 AM
                             [**2113-7-26**]  02:49 AM
                             [**2113-7-26**]  03:42 AM
                             [**2113-7-26**]  10:36 AM
                             [**2113-7-26**]  12:27 PM
                             [**2113-7-26**]  03:23 PM
                             [**2113-7-26**]  03:35 PM
                             [**2113-7-26**]  08:16 PM
                             [**2113-7-27**]  04:06 AM
                             [**2113-7-27**]  04:14 AM
   WBC
   6.9
   8.1
   Hct
   26.7
   34
   26.0
   28.0
   Plt
   366
   464
   Cr
   0.2
   0.3
   TCO2
   40
   40
   41
   41
   43
   40
   41
   Glucose
   94
   121
   Other labs: PT / PTT / INR:14.2/38.1/1.2, ALT / AST:32/45, Alk Phos / T
   Bili:186/0.7, Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.7 %,
   Mono:2.1 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, LDH:578 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR [**7-26**]: The current study demonstrates interval progression
   in the right lower lobe consolidation with unchanged appearance of
   extensive left lower lobe and left upper lobe airspace opacities,
   finding consistent with progression of the known pneumonia that might
   be  complicated by interval development of ARDS.
   Bilateral pleural effusions cannot be excluded. Overall, no findings to
   suggest pulmonary edema.
   Microbiology: Sputum [**7-24**]: No legionella
   Pleural fluid [**7-22**]: No growth
   Assessment and Plan
   Ms. [**Known lastname 3972**] is a 49yo female with no significant PMH who presents with
   increasing oxygen requirement and cxray findings consistent with
   multifocal PNA.
   .
   #) Legionella Multilobar pneumonia: Chest X-ray appears worse with
   diffuse bilateral infiltrated at the bases, respiratory status
   continues to be very tenuous.
   -- Continue Levaquin, adjust dose to 500mg from 750mg given long
   anticipated treatment. Continue Azithromycin IV for now given lack of
   clinical response, although double coverage may not be necessary later
   -- Appreciate ID team following
   -- F/U pending serologies: HIV, EBV, CMV, Leptospira, RMSF, Parvovirus,
   Lyme, Erlichia
   -- Atrovent nebs / Albuterol nebs schedules
   -- Low threshold for intubation, appears patient is progressing to
   ARDS.
   -- If Decreased mental status, hypoxia or hypercarbia > 70 refractory
   to bipap trial or overall deterioration, will need intubation.
   -- Hi flow O2 supplementation
   .
   #. Mixed Acid Base Disorder: Ongoing respiratory acidosis with
   metabolic alkalosis.
   A) Metabolic Alkalosis:
   -- Control nausea to avoid emesis and acid loss
   -- Discontinue Percocet as this is likely causing nausea
   -- Avoid phenergan as this appears to worsen mental status
   significantly
   -- Scheduled Zofran, NPO for now
   -- Replete Potassium with KCl as pt has metabolic hypochloremic
   acidosis
   -- NS for maintenance fluids to replete chloride and reverse component
   of contraction alkalosis
   B) Respiratory Acidosis:
   -- Hi Flow oxygen to reduce tachypnea
   #. Anemia: Stable
   -- Transfuse for Hct < 25
   #)Arthralgias/rash: Patient initially had arthralgias and rash, all of
   which have resolved at this time. She may initially have had a viral
   illness and now have a superimposed bacterial infection given her
   pneumonia.
   -- Monitor daily for symptoms
   .
   #)Transaminitis: Likely secondary to Legionella
   -- Continue to trend daily LFTs
   -- f/u EBV, CMV,
   -- HIV negative
   #)Depression: Continue Celexa 20mg PO daily.
   ICU Care
   Nutrition: NPO for now, MIVF with NS at 125cc/hr
   Glycemic Control:  Non necessary
   Lines:
   Arterial Line - [**2113-7-25**] 02:47 PM
   20 Gauge - [**2113-7-25**] 02:47 PM
   22 Gauge - [**2113-7-25**] 05:29 PM
   Prophylaxis:
   DVT:  Enoxaparin 40mg SC
   Stress ulcer: Not needed
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvement in respiratory status

2113-07-28 06:04:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 PICC LINE - START [**2113-7-27**] 10:50 AM
   - Levofloxacin stopped; continued on Azithromycin monotherapy per ID
   - Started on standing Tylenol; Percocet stopped given increase in
   nausea
   - Promethazine stopped; changed to Zofran with improvement in nausea
   - Received 2L of maintenance fluids (NS) over the course of the day
   - Subjectively feels better; able to eat meal yesterday
   - ABG this morning: 7.46/56//93/40
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2113-7-27**] 12:00 PM
   Azithromycin - [**2113-7-27**] 07:56 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2113-7-28**] 02:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-28**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 87 (75 - 96) bpm
   BP: 129/65(91) {115/56(78) - 149/76(102)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 72 kg
   Height: 68 Inch
             Total In:
                                                                  3,336 mL
                                                                  1,160 mL
   PO:
                                                                    640 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,696 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    780 mL
   Urine:
                                                                  3,040 mL
                                                                    780 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    266 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.46/56/92.[**Numeric Identifier 1176**]/36/13
   PaO2 / FiO2: 186
   Physical Examination
   Gen:
   HEENT:
   Heart:
   Lungs:
   Abdomen:
   Extremities:
   Labs / Radiology
   470 K/uL
   8.3 g/dL
   104 mg/dL
   0.3 mg/dL
   36 mEq/L
   4.0 mEq/L
   6 mg/dL
   100 mEq/L
   139 mEq/L
   24.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2113-7-26**]  10:36 AM
                             [**2113-7-26**]  12:27 PM
                             [**2113-7-26**]  03:23 PM
                             [**2113-7-26**]  03:35 PM
                             [**2113-7-26**]  08:16 PM
                             [**2113-7-27**]  04:06 AM
                             [**2113-7-27**]  04:14 AM
                             [**2113-7-27**]  11:23 AM
                             [**2113-7-28**]  03:32 AM
                             [**2113-7-28**]  04:45 AM
   WBC
   8.1
   7.4
   Hct
   34
   26.0
   28.0
   24.8
   Plt
   464
   470
   Cr
   0.3
   0.3
   TCO2
   41
   41
   43
   40
   41
   40
   40
   Glucose
   121
   104
   Other labs: PT / PTT / INR:14.2/38.1/1.2, ALT / AST:21/31, Alk Phos / T
   Bili:96/0.7, Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.7 %,
   Mono:2.1 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, LDH:354 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging:
   Cxray ([**7-27**]): 1. Left-sided PICC terminating in the mid SVC. 2. Slight
   improvement in apical consolidations, but persistent diffuse bilateral
   airspace opacities.
   Microbiology:
    [**7-21**]: Legionella urinary antigen:Positive for antigen.
   [**7-23**]: Sputum culture: No Legionella isolated
   Assessment and Plan
   Ms. [**Known lastname 3972**] is a 49yo female with no significant PMH who presents with
   increasing oxygen requirement and cxray findings consistent with
   multifocal PNA.
   1) Legionella Multilobar pneumonia: Chest X-ray appears worse with
   diffuse bilateral infiltrated at the bases, respiratory status
   continues to be very tenuous.
   -- Continue Levaquin, adjust dose to 500mg from 750mg given long
   anticipated treatment. Continue Azithromycin IV for now given lack of
   clinical response, although double coverage may not be necessary later
   -- Appreciate ID team following
   -- F/U pending serologies: HIV, EBV, CMV, Leptospira, RMSF, Parvovirus,
   Lyme, Erlichia
   -- Atrovent nebs / Albuterol nebs schedules
   -- Low threshold for intubation, appears patient is progressing to
   ARDS.
   -- If Decreased mental status, hypoxia or hypercarbia > 70 refractory
   to bipap trial or overall deterioration, will need intubation.
   -- Hi flow O2 supplementation
   2) Mixed Acid Base Disorder: Ongoing respiratory acidosis with
   metabolic alkalosis.
   a) Metabolic Alkalosis:
   -- Control nausea to avoid emesis and acid loss
   -- Discontinue Percocet as this is likely causing nausea
   -- Avoid phenergan as this appears to worsen mental status
   significantly
   -- Scheduled Zofran, NPO for now
   -- Replete Potassium with KCl as pt has metabolic hypochloremic
   acidosis
   -- NS for maintenance fluids to replete chloride and reverse component
   of contraction alkalosis
   b) Respiratory Acidosis:
   -- Hi Flow oxygen to reduce tachypnea
   3) Anemia: Stable
   -- Transfuse for Hct < 25
   4)Depression: Continue Celexa 20mg PO daily.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-7-25**] 02:47 PM
   20 Gauge - [**2113-7-25**] 02:47 PM
   22 Gauge - [**2113-7-25**] 05:29 PM
   PICC Line - [**2113-7-27**] 10:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: